US07414142B2
To a stirred solution of 5-{4-[(1E)-N-hydroxy-2,2-dimethylpropanimidoyl]-phenyl}-1-methyl-1H-pyrrole-2-carbonitrile (0.212 g, 0.75 mmol) in THF (7 mL) was added sodium hydride (0.03 g, 60% in mineral oil, 0.75 mmol) at 0° C. After the mixture was stirred for 10 minutes, methyl iodide (0.8 mL, 1.28 mmol) was added and the resulting mixture was stirred overnight at room temperature. The reaction mixture was then quenched with a saturated ammonium chloride solution (20 mL), and extracted several times with ethyl acetate (3×20 mL). The combined organic layers were dried over magnesium sulfate and concentrated. The residue was purified by a silica gel column (5% ethyl acetate in hexane) to afford 5-{4-[(1E)-N-methoxy-2,2-dimethylpropanimidoyl]phenyl}-1-methyl-1H-pyrrole-2-carbonitrile as a white solid (0.023 g, 10%). MS (ES) m/z 296.0; HRMS: calcd for C18H21N3O+H+, 296.17574; found (ESI, [M+H]+), 296.1753.

reactant | 5-{4-[(1E)-N-hydroxy-2,2-dimethylpropanimidoyl]-phenyl}-1-methyl-1H-pyrrole-2-carbonitrile | 0.75 mmol, 0.212 g | O/N=C(\C(C)(C)C)/C1=CC=C(C=C1)C1=CC=C(N1C)C#N | C17H19N3O
reactant | sodium hydride | 0.75 mmol, 0.03 g | [H-].[Na+]
reactant | methyl iodide | 1.28 mmol, 0.8 mL | CI | CH3I
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-{4-[(1E)-N-methoxy-2,2-dimethylpropanimidoyl]phenyl}-1-methyl-1H-pyrrole-2-carbonitrile | 0.023 g, 10% | CO/N=C(\C(C)(C)C)/C1=CC=C(C=C1)C1=CC=C(N1C)C#N | C18H21N3O
